US09102621B2
3-Chloro-2-(1,1,1,3,3,3-hexafluoropropan-2-yloxy)-5-nitropyridine
1,1,1,3,3,3-Hexafluoropropan-2-ol (1.74 g, 10.35 mmol) was added to a suspension of sodium hydride in mineral oil (60%, 450 mg, 11.25 mmol) in anhydrous THF (10 mL) at 0° C. and over 15 minutes. The resulting suspension was stirred for 30 minutes and 2,3-dichloro-5-nitropyridine (1.50 g, 7.77 mmol) was added portionwise. The mixture was stirred at room temperature for 18 hours and then concentrated in vacuo. The resulting crude was partitioned between EtOAc (50 mL) and water (50 mL). The aqueous layer was extracted with EtOAc (2×25 mL). Combined organics were dried over magnesium sulfate and concentrated in vacuo to afford the title compound as an orange oil (2.55 g, 100%).

reactant | 1,1,1,3,3,3-Hexafluoropropan-2-ol | 10.35 mmol, 1.74 g | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
reactant | sodium hydride | [H-].[Na+]
reactant | 2,3-dichloro-5-nitropyridine | 7.77 mmol, 1.50 g | ClC1=NC=C(C=C1Cl)[N+](=O)[O-] | C5H2Cl2N2O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-Chloro-2-(1,1,1,3,3,3-hexafluoropropan-2-yloxy)-5-nitropyridine | 2.55 g, 100% | ClC=1C(=NC=C(C1)[N+](=O)[O-])OC(C(F)(F)F)C(F)(F)F | C8H3ClF6N2O3
